US08119627B2
A mixture of 1-BOC-piperidone (2 g, 10 mmol), titanium(IV) isopropoxide and ammonia in EtOH was stirred under argon in a capped flask at room temperature for 6 h. Sodium borohydride was then added and the resulting mixture was stirred at room temperature for an additional 3 h. The reaction was then quenched by pouring it into ammonium hydroxide (2M, 25 mL). The resulting inorganic precipitate was filtered off, and washed with EtOAc (2×25 mL). The organic layer was separated and the remaining aqueous layer was extracted with EtOAc (2×25 mL). The combined organic fractions were next extracted with HCl (1M, 30 mL) to separate the neutral materials. The acidic extracts were washed with EtOAc (50 mL), then treated with aqueous NaOH 2M to pH 10-12, and extracted with EtOAc (3×50 mL). The combined organic extracts were washed with brine, dried (MgSO4) and concentrated in vacuo to afford 4-aminopiperidine-1-carboxylic acid tert-butyl ester as a white solid (882 mg, 44%) which was used in the next step without further purification. 1H NMR (300 MHz, CDCl3) δ 1.12-1.27 (3H, m), 1.42 (9H, s, 3CH3), 1.97 (2H, m), 1.73 (2H, m), 2.76 (3H, m) and 4.01 (2H, m).

reactant | 1-BOC-piperidone | 10 mmol, 2 g | C(=O)(OC(C)(C)C)N1C(CCCC1)=O | C10H17NO3
reactant | ammonia | N | H3N
reactant | Sodium borohydride | [BH4-].[Na+]
solvent | EtOH | CCO | C2H6O
catalyst | titanium(IV) isopropoxide | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | 4-aminopiperidine-1-carboxylic acid tert-butyl ester | 882 mg, 44% | C(C)(C)(C)OC(=O)N1CCC(CC1)N | C10H20N2O2
